US20010018446A1
Benzylamine (1.5 eq, 2.88 g, 2.94 mL, 26.8 mmol) was combined with 3,3,3-trifluoro-1,2-epoxypropane (2.0 g, 17.86 mmol) in a sealed glass tube and heated at 80° C. for 18 h. Upon cooling to room temperature, the reaction mixture formed a slushy white solid. The solid was collected by filtration and washed with diethyl ether. The mother liquor was concentrated in vacuo to give 1.71 g (43%) of the desired 1,1′-[(phenyl-methyl)imino]bis[3,3,3-trifluoro-2-propanol] product as a colorless oil. FABMS m/z=332 [M+H]+. 1H NMR (CDCl3) δ 2.85-2.96 (m, 4H), 3.94 (s, 2H), 3.94-3.97 (m, 2H), 7.24- 7.37 (m, 5H).

reactant | Benzylamine | 26.8 mmol, 2.94 mL, 2.88 g, 1.5 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | 3,3,3-trifluoro-1,2-epoxypropane | 17.86 mmol, 2.0 g | FC(C1CO1)(F)F | C3H3F3O
product | 1,1′-[(phenyl-methyl)imino]bis[3,3,3-trifluoro-2-propanol] | 1.71 g, 43% | C1(=CC=CC=C1)CN(CC(C(F)(F)F)O)CC(C(F)(F)F)O | C13H15F6NO2
